US07678802B2
Synthesis of 2-(2-Methoxy-phenyl)-7-trifluoromethyl-3H-quinazolin-4-one
2-(2-Methoxy-phenyl)-7-trifluoromethyl-3H-quinazolin-4-one 2-(2-Methoxy-benzoylamino)-4-trifluoromethyl-benzamide (3.8 g, 11.24 mmol) was suspended in 145 ml 5% aqueous NaOH solution then refluxed for three hours at 120° C. The reaction was cooled to room temperature and adjusted to pH 4 causing the desired product to precipitate from solution. Solid was collected by vacuum filtration as a white solid and dried on the lyophilizer for 24 h. White solid 2.7 g, 75% yield. LC/MS (10-99%) M/Z 321.1, retention time 3.25 minutes.

reactant | 2-(2-Methoxy-phenyl)-7-trifluoromethyl-3H-quinazolin-4-one 2-(2-Methoxy-benzoylamino)-4-trifluoromethyl-benzamide | 11.24 mmol, 3.8 g | COC1=C(C(=O)NC2=C(C(=O)N)C=CC(=C2)C(F)(F)F)C=CC=C1.COC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(N1)=O)C(F)(F)F
solvent | NaOH | 145 ml | [OH-].[Na+]
product | 2-(2-Methoxy-phenyl)-7-trifluoromethyl-3H-quinazolin-4-one | COC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(N1)=O)C(F)(F)F | C16H11F3N2O2
